US08530483B2
To a solution of 4-dimethylamino-benzoic acid (635 mg, 3.84 mmol) in CH2Cl2 (38 mL) was added 1-chloro-N,N-2-trimethylpropenylamine (0.51 mL, 3.84 mmol). Following formation of the resulting acid chloride, the reaction mixture was concentrated affording a residue that was dissolved in pyridine (7.8 mL) before 2,6-difluoro-pyridin-3-ylamine (500 mg, 3.84) was added in one portion. After an additional 1 h, the reaction mixture was concentrated to dryness affording a residue to which was added DMF (5 mL) and K2CO3 (531 mg, 3.84 mmol). The resulting mixture was heated by microwave to 150° C. for 10 min, after which the resulting mixture was filtered, concentrated and purified by silica gel flash chromatography (0 to 100% EtOAc in hexanes) to afford [4-(5-fluoro-oxazolo[5,4-b]pyridin-2-yl)-phenyl]-dimethyl-amine (430 mg, 1.67 mmol, 44%). ES MS (M+H+)=258; 1H NMR δ (ppm)(DMSO-d6): 8.28 (1H, dd, J=8.36, 7.14 Hz), 8.01-7.94 (2H, m), 7.24-7.18 (1H, m), 6.87 (2H, d, J=8.89 Hz), 3.05 (6H, s); HRMS m/z 258.1039 (C14H12FN3O+H+ requires 258.1037).

reactant | 4-dimethylamino-benzoic acid | 3.84 mmol, 635 mg | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | 2,6-difluoro-pyridin-3-ylamine | 500 mg | FC1=NC(=CC=C1N)F | C5H4F2N2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 3.84 mmol, 531 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 38 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 7.8 mL | N1=CC=CC=C1 | C5H5N
product | [4-(5-fluoro-oxazolo[5,4-b]pyridin-2-yl)-phenyl]-dimethyl-amine | 1.67 mmol, 430 mg, 44% | FC1=CC=C2C(=N1)OC(=N2)C2=CC=C(C=C2)N(C)C | C14H12FN3O
